US04472578
A mixture of 2.63 g of ethyl 1,4-dihydro-1,4-dioxo-3-methoxy-2-naphthoate and 1.3 g of o-phenylenediamine in 50 ml of ethanol was heated at reflux for an hour. After cooling, the precipitated solid was collected by filtration and recrystallized from ethanol to give 2.972 g (93.5% yield) of ethyl 5-hydroxybenzo[a]phenazine-6-carboxylate as yellow needles, m.p. 126°-127° C., Anal. CAlcd. (%) for C19H14N2O3 : C, 71.69; H, 4.43; N, 8.80; Found: C, 71.81; H, 4.21; N, 8.90

reactant | ethyl 1,4-dihydro-1,4-dioxo-3-methoxy-2-naphthoate | 2.63 g | O=C1C(=C(C(C2=CC=CC=C12)=O)OC)C(=O)OCC | C14H12O5
reactant | o-phenylenediamine | 1.3 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5-hydroxybenzo[a]phenazine-6-carboxylate | 2.972 g, 93.5% yield | OC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)OCC)C=CC=C2 | C19H14N2O3
